T1 (net7 0 0 0) pfet L=5.64E-6 W=8.77E-6
R2 (net9 net3) R=8.8E1
R3 (net3 net2) R=3.3E3
R4 (net6 net4) R=2.4E2
T5 (net4 net7 net7 0) pfet L=5.98E-6 W=1.21E-6
R6 (net2 net7) R=3.6E1
T7 (net8 net8 net8 0) pfet L=0.35E-6 W=3.23E-6
T8 (net8 net1 net1 0) nfet L=2.90E-6 W=2.07E-6
C9 (net1 net4) C=7.1E-5
R10 (net7 net5) R=4.0E0
C11 (vdd! net4) C=1.3E-12
T12 (net2 vdd! vdd! 0) pfet L=5.98E-6 W=5.28E-6
T13 (0 net7 net7 0) pfet L=7.07E-6 W=2.40E-6
C14 (net7 net2) C=8.8E-12
T15 (net9 net4 net4 0) nfet L=3.79E-6 W=5.18E-6
T16 (0 net9 net9 0) nfet L=2.71E-6 W=3.60E-6
T17 (net5 net8 net8 0) nfet L=8.69E-6 W=6.13E-6
T18 (net7 net1 net1 0) pfet L=1.71E-6 W=7.57E-6

