R1 (net6 net4) R=8.4E3
C2 (net21 net20) C=8.5E-5
C3 (net3 net9) C=6.1E-14
R4 (net2 net19) R=4.3E0
R5 (net15 net18) R=2.8E6
C6 (net7 net11) C=2.9E-10
T7 (net11 net7 net7 0) nfet L=9.00E-6 W=3.91E-6
T8 (vdd! net6 net6 0) pfet L=6.84E-6 W=5.07E-6
T9 (net6 net12 net12 0) nfet L=9.65E-6 W=9.04E-6
R10 (net7 net15) R=1.2E6
C11 (net3 net19) C=8.3E-12
R12 (net17 net4) R=0.8E1
C13 (net3 net11) C=6.0E-7
T14 (net22 net11 net11 0) nfet L=0.51E-6 W=4.36E-6
T15 (net15 net6 net6 0) pfet L=5.84E-6 W=7.08E-6
T16 (net22 net15 net15 0) nfet L=9.35E-6 W=7.89E-6
R17 (net20 net14) R=4.3E5
R18 (net18 net15) R=2.5E0
T19 (net24 net6 net6 0) pfet L=5.10E-6 W=3.31E-6
T20 (net6 net2 net2 0) pfet L=1.27E-6 W=3.70E-6
T21 (0 net6 net6 0) pfet L=6.91E-6 W=5.82E-6
C22 (net4 net24) C=5.8E-8
T23 (net14 net10 net10 0) pfet L=9.70E-6 W=0.61E-6
C24 (net5 vdd!) C=8.4E-12
C25 (net6 net14) C=0.2E-14
T26 (net1 net14 net14 0) nfet L=7.17E-6 W=1.92E-6
T27 (net18 net23 net23 0) pfet L=0.37E-6 W=3.37E-6
C28 (net9 net2) C=8.8E-13
R29 (net12 net4) R=2.3E2

