C1 (net1 net2) C=8.6E-6
T2 (net1 net1 net1 0) nfet L=0.36E-6 W=8.47E-6
C3 (net1 net2) C=1.3E-8
T4 (net1 net2 net2 0) pfet L=7.47E-6 W=7.78E-6
T5 (net2 net1 net1 0) nfet L=5.27E-6 W=7.71E-6
T6 (net1 net1 net1 0) pfet L=3.20E-6 W=6.22E-6
R7 (net2 vdd!) R=9.1E6
T8 (net2 net2 net2 0) nfet L=0.24E-6 W=9.75E-6
C9 (net1 net2) C=0.9E-5
R10 (net1 net2) R=0.9E1
R11 (net2 vdd!) R=4.0E2
R12 (net1 net2) R=6.5E1
T13 (net2 net2 net2 0) pfet L=9.13E-6 W=9.36E-6
T14 (net2 net1 net1 0) pfet L=3.87E-6 W=1.63E-6
T15 (net1 net1 net1 0) pfet L=8.80E-6 W=2.46E-6
C16 (net1 net2) C=9.8E-6
R17 (0 net1) R=4.6E5
T18 (0 net1 net1 0) nfet L=0.24E-6 W=4.05E-6
T19 (net2 net1 net1 0) nfet L=9.91E-6 W=5.68E-6
C20 (net2 net1) C=5.9E-7
R21 (0 net1) R=0.8E3
C22 (net1 net2) C=1.4E-6
C23 (net2 0) C=4.5E-6
T24 (vdd! net2 net2 0) pfet L=6.06E-6 W=0.87E-6
T25 (net1 net2 net2 0) nfet L=5.36E-6 W=6.24E-6
T26 (net2 net2 net2 0) nfet L=7.36E-6 W=9.87E-6
C27 (net2 net1) C=5.6E-12
T28 (net1 net1 net1 0) nfet L=5.67E-6 W=2.55E-6

