R1 (net2 vdd!) R=1.0E6
T2 (net7 0 0 0) pfet L=9.59E-6 W=5.97E-6
T3 (net3 net5 net5 0) pfet L=2.39E-6 W=3.51E-6
R4 (net2 net4) R=7.7E4
R5 (net2 net1) R=4.4E4
R6 (net6 net3) R=7.9E6
T7 (net6 net4 net4 0) nfet L=4.73E-6 W=8.13E-6
C8 (net7 net3) C=8.0E-11
T9 (net4 net7 net7 0) pfet L=6.47E-6 W=3.64E-6
R10 (net3 net7) R=7.5E1
C11 (net4 net5) C=4.4E-9

