T1 (net4 net3 net3 0) pfet L=1.67E-6 W=9.71E-6
R2 (net4 net3) R=1.6E1
T3 (net3 net2 net2 0) nfet L=0.83E-6 W=7.63E-6
R4 (net5 net4) R=7.8E0
R5 (net4 net5) R=3.6E0
T6 (net5 net1 net1 0) nfet L=0.75E-6 W=2.02E-6
R7 (net3 net4) R=3.6E5
T8 (vdd! net4 net4 0) nfet L=4.59E-6 W=0.48E-6
T9 (net3 net1 net1 0) pfet L=0.98E-6 W=9.13E-6
R10 (0 net4) R=0.4E2
R11 (net1 0) R=0.5E3
C12 (net3 net4) C=6.9E-5
T13 (net4 net3 net3 0) pfet L=5.55E-6 W=8.52E-6
R14 (net1 net2) R=5.2E4
T15 (vdd! net1 net1 0) nfet L=7.36E-6 W=2.39E-6
T16 (net2 net5 net5 0) pfet L=1.49E-6 W=0.35E-6
T17 (net2 net1 net1 0) nfet L=3.53E-6 W=3.93E-6
T18 (net1 net1 net1 0) pfet L=5.40E-6 W=8.42E-6
T19 (net5 net5 net5 0) nfet L=7.25E-6 W=3.14E-6
T20 (net2 net2 net2 0) pfet L=1.24E-6 W=8.88E-6
C21 (net3 0) C=5.2E-9
C22 (vdd! net1) C=8.4E-8

