C1 (net3 vdd!) C=7.2E-5
R2 (0 net2) R=5.0E1
R3 (net2 net1) R=1.9E5
T4 (vdd! net4 net4 0) nfet L=3.57E-6 W=7.21E-6
R5 (vdd! net2) R=2.4E1
R6 (net1 0) R=0.2E4
C7 (net1 net4) C=1.8E-7
T8 (net4 net4 net4 0) nfet L=2.17E-6 W=3.07E-6
R9 (vdd! net3) R=9.3E6
C10 (net2 net1) C=5.3E-13
T11 (net1 net3 net3 0) nfet L=6.91E-6 W=1.99E-6
R12 (net1 net2) R=8.4E4
T13 (net3 net2 net2 0) pfet L=7.74E-6 W=6.28E-6
C14 (net3 net2) C=2.5E-5
T15 (net3 net4 net4 0) pfet L=2.40E-6 W=1.25E-6
C16 (net3 0) C=8.2E-7
T17 (net2 net1 net1 0) nfet L=7.62E-6 W=2.00E-6
C18 (net4 net3) C=3.6E-6
T19 (net2 net3 net3 0) nfet L=9.14E-6 W=1.01E-6
C20 (net4 net3) C=1.6E-8
T21 (net2 net3 net3 0) pfet L=2.67E-6 W=6.28E-6
C22 (net3 net2) C=8.7E-14
R23 (net1 net4) R=0.7E0
C24 (net3 net1) C=8.3E-13
T25 (net2 net3 net3 0) nfet L=3.94E-6 W=8.28E-6

