T1 (net20 net2 net2 0) nfet L=9.06E-6 W=7.94E-6
T2 (net8 net14 net14 0) pfet L=4.62E-6 W=3.92E-6
T3 (net17 net1 net1 0) pfet L=4.42E-6 W=5.12E-6
T4 (net2 vdd! vdd! 0) pfet L=9.64E-6 W=8.94E-6
C5 (net17 net19) C=0.7E-11
T6 (0 net19 net19 0) pfet L=1.72E-6 W=5.92E-6
T7 (net7 net4 net4 0) nfet L=3.16E-6 W=5.50E-6
T8 (net11 net13 net13 0) nfet L=8.51E-6 W=2.64E-6
R9 (net6 0) R=9.1E1
T10 (net11 net18 net18 0) nfet L=3.79E-6 W=3.96E-6
T11 (net20 net6 net6 0) nfet L=4.28E-6 W=5.86E-6
T12 (net4 net15 net15 0) pfet L=0.18E-6 W=5.85E-6
C13 (net13 net12) C=8.0E-8
T14 (net10 net1 net1 0) nfet L=6.36E-6 W=5.66E-6
T15 (net3 net14 net14 0) pfet L=9.73E-6 W=7.65E-6
C16 (net15 net19) C=6.1E-14
R17 (net2 0) R=1.3E3
T18 (net7 net20 net20 0) nfet L=4.39E-6 W=3.64E-6
R19 (0 net16) R=3.5E4
T20 (net15 net3 net3 0) nfet L=1.37E-6 W=6.96E-6
C21 (net15 net8) C=5.5E-10
R22 (net3 net6) R=0.9E3
C23 (net2 net11) C=0.5E-9
T24 (net8 net5 net5 0) nfet L=4.99E-6 W=3.13E-6
R25 (net9 net15) R=1.8E4
T26 (net8 net7 net7 0) pfet L=8.91E-6 W=6.80E-6
R27 (net6 net16) R=2.6E3
C28 (net7 net12) C=3.0E-11
C29 (net1 net3) C=6.2E-11
R30 (net7 net5) R=9.7E5
T31 (net2 vdd! vdd! 0) nfet L=4.28E-6 W=7.35E-6
T32 (net18 net12 net12 0) nfet L=4.96E-6 W=4.92E-6
T33 (net6 net2 net2 0) pfet L=5.03E-6 W=4.49E-6
T34 (net16 net6 net6 0) nfet L=6.56E-6 W=7.03E-6
T35 (net6 net16 net16 0) nfet L=1.80E-6 W=9.11E-6
R36 (net15 net8) R=3.8E1
T37 (net20 net16 net16 0) pfet L=6.86E-6 W=2.52E-6
R38 (vdd! net4) R=7.5E1
T39 (net3 net2 net2 0) nfet L=8.79E-6 W=7.42E-6
R40 (net15 net2) R=8.2E0
R41 (net13 net8) R=5.2E5
C42 (net6 net15) C=0.6E-7
T43 (net13 net9 net9 0) pfet L=2.19E-6 W=6.74E-6
T44 (net14 net10 net10 0) nfet L=6.16E-6 W=4.40E-6
T45 (net19 vdd! vdd! 0) nfet L=7.91E-6 W=4.96E-6
T46 (vdd! net6 net6 0) nfet L=1.54E-6 W=9.42E-6
T47 (net15 net6 net6 0) nfet L=1.57E-6 W=5.37E-6
T48 (net2 net3 net3 0) nfet L=7.96E-6 W=4.57E-6
T49 (net4 net10 net10 0) pfet L=7.26E-6 W=1.86E-6
R50 (net7 net2) R=6.3E6
R51 (net20 vdd!) R=5.3E0
T52 (net19 net10 net10 0) nfet L=9.98E-6 W=2.92E-6
C53 (net6 vdd!) C=6.3E-14
T54 (net5 net3 net3 0) nfet L=5.95E-6 W=5.82E-6
C55 (net11 net18) C=8.0E-14
C56 (0 net14) C=3.0E-6
C57 (net18 net15) C=8.8E-12
C58 (0 net6) C=2.5E-8
T59 (0 0 0 0) pfet L=5.20E-6 W=4.82E-6

