C1 (net3 0) C=6.7E-14
T2 (net1 net7 net7 0) nfet L=7.74E-6 W=7.62E-6
T3 (net3 net7 net7 0) pfet L=9.55E-6 W=5.57E-6
T4 (net2 net2 net2 0) nfet L=4.39E-6 W=3.14E-6
C5 (net4 net2) C=5.9E-10
R6 (net2 net6) R=6.6E2
R7 (vdd! net7) R=4.9E5
T8 (net4 0 0 0) pfet L=6.50E-6 W=0.35E-6
R9 (net8 0) R=2.5E0
R10 (net5 net1) R=8.9E4
T11 (net4 net4 net4 0) nfet L=4.84E-6 W=1.36E-6
T12 (net8 net5 net5 0) nfet L=8.79E-6 W=3.41E-6
T13 (net2 net3 net3 0) nfet L=2.62E-6 W=8.99E-6
T14 (net3 net5 net5 0) pfet L=6.04E-6 W=5.27E-6
T15 (net8 vdd! vdd! 0) pfet L=6.91E-6 W=5.14E-6
R16 (net3 net7) R=8.8E3
R17 (net8 net4) R=8.1E4
T18 (net3 net8 net8 0) nfet L=8.90E-6 W=7.63E-6
T19 (0 net6 net6 0) nfet L=8.03E-6 W=5.99E-6
C20 (net2 0) C=8.9E-14
T21 (vdd! net8 net8 0) nfet L=4.95E-6 W=3.40E-6
C22 (net5 net4) C=4.5E-5
T23 (net7 net3 net3 0) pfet L=1.44E-6 W=3.10E-6
R24 (net3 net8) R=8.5E3
C25 (net8 vdd!) C=3.8E-9
R26 (net8 net7) R=5.9E0
C27 (net4 net3) C=6.1E-7
R28 (net5 net6) R=6.8E5
R29 (net5 net8) R=4.4E6
T30 (net8 net8 net8 0) nfet L=1.23E-6 W=5.65E-6
R31 (net2 net8) R=1.0E2
T32 (net4 0 0 0) pfet L=2.26E-6 W=0.22E-6
T33 (net6 net7 net7 0) nfet L=9.22E-6 W=3.35E-6
R34 (net2 net1) R=5.3E6
R35 (net5 net1) R=1.8E6
R36 (net2 net1) R=2.0E2
T37 (net7 net2 net2 0) nfet L=8.75E-6 W=3.01E-6
R38 (net1 vdd!) R=2.7E3
C39 (net1 net5) C=3.6E-9
T40 (net8 net3 net3 0) nfet L=9.67E-6 W=7.12E-6
R41 (net5 net2) R=6.8E1
T42 (net3 net7 net7 0) nfet L=5.72E-6 W=2.42E-6
T43 (0 net1 net1 0) nfet L=8.24E-6 W=2.09E-6
T44 (net6 0 0 0) pfet L=0.56E-6 W=0.55E-6
R45 (net8 net1) R=5.0E5
R46 (net8 net5) R=9.5E2
T47 (net6 net6 net6 0) nfet L=2.08E-6 W=9.91E-6
T48 (net1 net5 net5 0) pfet L=9.61E-6 W=4.78E-6
T49 (0 net4 net4 0) nfet L=3.04E-6 W=6.39E-6
C50 (net1 net5) C=1.3E-10
T51 (net3 net5 net5 0) pfet L=5.87E-6 W=8.38E-6
R52 (net5 net2) R=8.1E1
C53 (net3 net8) C=6.0E-11
T54 (net1 net3 net3 0) pfet L=8.65E-6 W=3.74E-6
T55 (net3 net5 net5 0) pfet L=8.95E-6 W=1.78E-6
R56 (net7 net2) R=1.5E1

