T1 (net9 net3 net3 0) pfet L=5.22E-6 W=0.61E-6
C2 (net2 net4) C=4.7E-6
T3 (net9 net12 net12 0) nfet L=5.06E-6 W=5.58E-6
C4 (vdd! net8) C=3.7E-12
R5 (net8 net3) R=1.6E0
T6 (net9 net9 net9 0) nfet L=1.96E-6 W=3.68E-6
T7 (net10 net10 net10 0) pfet L=7.50E-6 W=8.46E-6
C8 (net3 vdd!) C=8.7E-8
T9 (net2 net2 net2 0) nfet L=5.71E-6 W=8.75E-6
T10 (net8 net4 net4 0) pfet L=4.96E-6 W=6.77E-6
T11 (net5 net11 net11 0) pfet L=1.69E-6 W=2.22E-6
C12 (net10 net7) C=4.8E-9
C13 (net10 vdd!) C=7.6E-11
C14 (net1 vdd!) C=1.9E-14
T15 (net1 net2 net2 0) nfet L=3.45E-6 W=5.44E-6
R16 (net1 net6) R=8.6E0
T17 (net8 net8 net8 0) pfet L=9.27E-6 W=5.15E-6
C18 (0 net11) C=4.2E-11
T19 (net13 net8 net8 0) pfet L=3.60E-6 W=5.45E-6
T20 (net12 net6 net6 0) nfet L=4.93E-6 W=6.00E-6
T21 (net11 net7 net7 0) nfet L=3.09E-6 W=6.41E-6
R22 (net5 net6) R=6.6E5

