T1 (0 vdd! vdd! 0) pfet L=4.49E-6 W=8.11E-6
C2 (net4 0) C=0.3E-13
C3 (net7 net2) C=8.8E-12
R4 (net11 0) R=4.6E5
R5 (net4 net12) R=5.9E3
C6 (net15 net9) C=0.6E-12
C7 (net8 net3) C=7.5E-9
R8 (net2 net11) R=3.2E1
T9 (net10 net14 net14 0) pfet L=3.82E-6 W=3.28E-6
R10 (net2 net8) R=7.7E1
T11 (net7 net12 net12 0) nfet L=4.72E-6 W=7.66E-6
C12 (net6 net11) C=5.0E-12
T13 (net2 net11 net11 0) nfet L=7.04E-6 W=8.61E-6
T14 (net10 net4 net4 0) pfet L=6.67E-6 W=9.37E-6
T15 (net8 net9 net9 0) pfet L=7.39E-6 W=3.74E-6
R16 (net5 net3) R=1.1E3
T17 (net10 net5 net5 0) pfet L=7.33E-6 W=9.45E-6
T18 (net2 net5 net5 0) nfet L=0.15E-6 W=1.39E-6
R19 (net10 net11) R=3.4E3
T20 (net12 net9 net9 0) nfet L=9.25E-6 W=7.24E-6
R21 (net8 net7) R=5.0E3
T22 (net6 net11 net11 0) nfet L=3.55E-6 W=2.11E-6
T23 (net12 net9 net9 0) nfet L=9.23E-6 W=1.51E-6
R24 (net14 vdd!) R=7.9E3
T25 (net13 0 0 0) nfet L=3.02E-6 W=3.23E-6
T26 (net10 net13 net13 0) pfet L=9.39E-6 W=2.71E-6
C27 (net6 net3) C=4.2E-12
C28 (net12 net11) C=7.3E-7
T29 (net12 net4 net4 0) pfet L=3.99E-6 W=0.53E-6

