C1 (net1 net24) C=1.9E-11
T2 (net12 net7 net7 0) pfet L=2.10E-6 W=8.55E-6
R3 (net14 net18) R=4.5E0
T4 (net19 net1 net1 0) pfet L=4.88E-6 W=8.98E-6
C5 (net5 net15) C=1.2E-6
C6 (net19 net20) C=2.4E-10
T7 (net6 net16 net16 0) pfet L=3.88E-6 W=5.85E-6
T8 (net3 net10 net10 0) pfet L=5.78E-6 W=7.32E-6
T9 (net7 net24 net24 0) pfet L=7.40E-6 W=5.06E-6
T10 (net3 net13 net13 0) pfet L=3.86E-6 W=2.56E-6
R11 (net1 net21) R=7.3E2
T12 (net2 net13 net13 0) nfet L=5.25E-6 W=0.13E-6
T13 (net18 net1 net1 0) nfet L=7.46E-6 W=4.37E-6
T14 (net23 net18 net18 0) nfet L=6.55E-6 W=5.93E-6
T15 (net12 net19 net19 0) pfet L=1.63E-6 W=2.81E-6
R16 (net3 net14) R=8.1E5
C17 (net3 net10) C=2.9E-9
T18 (net10 net17 net17 0) pfet L=0.95E-6 W=3.78E-6
T19 (net17 net11 net11 0) nfet L=9.29E-6 W=1.10E-6
T20 (net16 net18 net18 0) nfet L=4.57E-6 W=6.31E-6
T21 (net22 0 0 0) pfet L=3.50E-6 W=1.15E-6
R22 (net17 net16) R=2.7E3
R23 (net3 vdd!) R=9.4E3
C24 (net7 net9) C=8.8E-6
R25 (net15 net24) R=1.4E1
C26 (net17 vdd!) C=6.7E-8
R27 (net9 0) R=4.7E1
R28 (0 vdd!) R=2.3E2
T29 (0 net19 net19 0) nfet L=4.76E-6 W=2.00E-6
T30 (net23 vdd! vdd! 0) pfet L=4.89E-6 W=3.00E-6
T31 (net9 net24 net24 0) pfet L=0.65E-6 W=1.82E-6
R32 (net3 net5) R=7.3E3
T33 (net3 net7 net7 0) nfet L=0.15E-6 W=9.50E-6
T34 (net17 net13 net13 0) nfet L=7.92E-6 W=6.43E-6
R35 (net15 net7) R=4.0E0
T36 (net4 net13 net13 0) nfet L=0.48E-6 W=5.49E-6
R37 (net14 net22) R=8.0E5

