T1 (net1 0 0 0) pfet L=7.77E-6 W=6.39E-6
C2 (net2 vdd!) C=2.6E-11
T3 (net3 net1 net1 0) nfet L=8.08E-6 W=7.48E-6
T4 (net2 vdd! vdd! 0) nfet L=6.92E-6 W=9.15E-6
R5 (net4 net2) R=5.6E4
T6 (net3 net4 net4 0) nfet L=7.21E-6 W=4.15E-6
T7 (net3 net2 net2 0) pfet L=4.08E-6 W=2.50E-6
T8 (net1 net5 net5 0) pfet L=7.46E-6 W=1.18E-6
T9 (net5 net4 net4 0) pfet L=3.50E-6 W=8.65E-6
T10 (net2 net2 net2 0) nfet L=9.13E-6 W=3.34E-6
T11 (net1 net4 net4 0) pfet L=5.91E-6 W=6.01E-6
T12 (net2 net1 net1 0) nfet L=2.06E-6 W=9.00E-6
R13 (net3 net4) R=2.1E1
T14 (net4 net2 net2 0) pfet L=1.58E-6 W=9.66E-6

