C1 (net8 net19) C=8.9E-11
R2 (net6 net20) R=9.8E1
C3 (vdd! net20) C=3.2E-11
R4 (net15 vdd!) R=8.6E0
T5 (net8 net13 net13 0) nfet L=1.84E-6 W=7.32E-6
T6 (net15 net7 net7 0) pfet L=1.25E-6 W=4.86E-6
R7 (net12 net13) R=3.3E4
T8 (net3 net11 net11 0) pfet L=0.45E-6 W=1.68E-6
T9 (net3 net14 net14 0) nfet L=8.82E-6 W=7.22E-6
R10 (net23 net6) R=3.2E2
C11 (net8 net24) C=3.0E-14
R12 (net5 vdd!) R=8.3E3
T13 (net4 vdd! vdd! 0) nfet L=0.26E-6 W=8.52E-6
T14 (net3 net14 net14 0) pfet L=1.04E-6 W=5.40E-6
T15 (net15 net10 net10 0) pfet L=1.63E-6 W=5.42E-6
R16 (net21 net2) R=1.0E3
R17 (net2 net23) R=5.4E6
C18 (net16 vdd!) C=3.7E-12
R19 (net10 net14) R=5.3E5
R20 (net6 net9) R=4.1E4
R21 (net4 net3) R=7.8E2
T22 (0 net11 net11 0) nfet L=8.52E-6 W=3.34E-6
T23 (net18 net19 net19 0) nfet L=7.30E-6 W=6.17E-6
T24 (net10 net23 net23 0) pfet L=9.42E-6 W=7.01E-6
T25 (net21 net18 net18 0) nfet L=5.71E-6 W=1.33E-6
T26 (net14 net9 net9 0) nfet L=6.28E-6 W=6.02E-6
C27 (vdd! net8) C=4.1E-14
C28 (net17 net23) C=7.3E-14
T29 (net5 net17 net17 0) nfet L=6.52E-6 W=9.50E-6
T30 (net23 0 0 0) pfet L=8.98E-6 W=3.36E-6
C31 (net2 net24) C=5.8E-6
T32 (net7 net4 net4 0) pfet L=2.28E-6 W=4.14E-6
R33 (net19 net7) R=8.0E2
C34 (vdd! net18) C=7.6E-11
C35 (net3 net17) C=3.7E-6
T36 (net17 net17 net17 0) pfet L=6.94E-6 W=8.78E-6
T37 (net7 net21 net21 0) pfet L=2.05E-6 W=3.71E-6
T38 (net1 net16 net16 0) nfet L=9.68E-6 W=5.15E-6
R39 (net2 net5) R=6.4E3
T40 (net23 net17 net17 0) nfet L=8.99E-6 W=3.81E-6
T41 (net21 net13 net13 0) nfet L=2.77E-6 W=6.62E-6
C42 (net14 net21) C=3.2E-10
C43 (net4 net1) C=8.4E-13
T44 (net11 net17 net17 0) pfet L=4.90E-6 W=3.55E-6
C45 (net23 net19) C=7.7E-8
C46 (net7 net3) C=8.2E-7
C47 (net14 net21) C=3.9E-10
C48 (net6 net19) C=8.1E-10
R49 (net17 net13) R=2.4E1
T50 (vdd! 0 0 0) nfet L=3.01E-6 W=4.89E-6
T51 (0 net16 net16 0) nfet L=9.02E-6 W=7.14E-6

