C1 (net14 net5) C=8.2E-12
R2 (net6 net7) R=2.8E5
C3 (net15 net4) C=1.3E-9
T4 (net9 net3 net3 0) pfet L=4.67E-6 W=4.28E-6
T5 (net6 net14 net14 0) pfet L=3.30E-6 W=5.59E-6
C6 (net9 net4) C=9.8E-8
T7 (net14 vdd! vdd! 0) nfet L=8.78E-6 W=7.41E-6
R8 (net2 net4) R=1.4E2
T9 (net10 net7 net7 0) nfet L=5.33E-6 W=0.80E-6
C10 (vdd! net1) C=8.5E-9
C11 (vdd! net2) C=2.5E-12
R12 (net7 net5) R=0.2E4
R13 (net17 0) R=1.4E5
R14 (net15 net3) R=9.7E2
C15 (net6 net2) C=9.4E-11
T16 (net17 net8 net8 0) nfet L=8.72E-6 W=6.35E-6
R17 (0 net1) R=3.0E4
C18 (net15 0) C=8.5E-11
R19 (net3 0) R=7.2E1
T20 (net4 net2 net2 0) nfet L=1.07E-6 W=0.80E-6
T21 (net13 net16 net16 0) pfet L=2.02E-6 W=6.12E-6
C22 (net9 net11) C=3.6E-14
R23 (0 net12) R=8.1E3
T24 (net4 net6 net6 0) nfet L=4.17E-6 W=4.91E-6
T25 (0 net2 net2 0) nfet L=8.29E-6 W=4.86E-6
C26 (net3 net5) C=6.6E-5
T27 (net9 net8 net8 0) pfet L=6.81E-6 W=1.93E-6
T28 (0 vdd! vdd! 0) nfet L=1.20E-6 W=9.45E-6
T29 (net1 net6 net6 0) pfet L=9.94E-6 W=8.56E-6
T30 (net13 net3 net3 0) nfet L=3.55E-6 W=2.19E-6
C31 (net14 net10) C=1.8E-13
C32 (net13 net2) C=5.2E-14
T33 (net4 net8 net8 0) nfet L=6.83E-6 W=7.51E-6
T34 (net1 net14 net14 0) nfet L=2.87E-6 W=0.36E-6
T35 (net9 net4 net4 0) pfet L=2.72E-6 W=8.29E-6
C36 (net14 net12) C=2.7E-11
C37 (net16 net15) C=3.3E-11
C38 (net6 0) C=7.4E-10
T39 (vdd! net10 net10 0) nfet L=0.36E-6 W=3.81E-6
T40 (net16 net7 net7 0) nfet L=6.04E-6 W=4.74E-6

