C1 (net22 0) C=1.8E-10
R2 (net10 net21) R=7.6E4
T3 (net9 net5 net5 0) nfet L=9.07E-6 W=4.00E-6
R4 (net11 net15) R=9.2E0
C5 (0 net19) C=4.2E-8
T6 (net5 net21 net21 0) pfet L=3.57E-6 W=0.78E-6
T7 (net15 net18 net18 0) nfet L=0.55E-6 W=3.45E-6
T8 (net5 net23 net23 0) pfet L=5.13E-6 W=6.35E-6
C9 (net1 net23) C=8.9E-10
C10 (net1 net9) C=1.3E-5
C11 (0 net22) C=7.7E-14
T12 (net1 net5 net5 0) nfet L=7.06E-6 W=4.58E-6
C13 (net9 net19) C=5.3E-11
R14 (net8 net23) R=1.5E2
C15 (net14 net5) C=9.5E-12
R16 (net8 net23) R=8.5E4
C17 (net7 net5) C=6.2E-11
R18 (vdd! net21) R=1.2E5
R19 (net19 net15) R=0.3E4
R20 (net13 vdd!) R=6.1E5
T21 (net18 net12 net12 0) pfet L=9.85E-6 W=0.28E-6
T22 (net19 net11 net11 0) nfet L=9.29E-6 W=4.37E-6
R23 (net16 net4) R=4.5E4
T24 (net17 net3 net3 0) pfet L=4.09E-6 W=9.67E-6
C25 (net3 net17) C=0.6E-10
T26 (net19 net13 net13 0) nfet L=6.16E-6 W=8.95E-6
T27 (net15 net10 net10 0) pfet L=7.36E-6 W=5.55E-6
T28 (net16 net4 net4 0) pfet L=9.02E-6 W=9.32E-6
T29 (net6 net2 net2 0) nfet L=9.71E-6 W=9.45E-6
T30 (net23 net5 net5 0) pfet L=8.45E-6 W=8.32E-6
C31 (net4 net1) C=2.1E-11
R32 (net23 net9) R=8.7E2
R33 (net3 net8) R=6.2E0
R34 (net19 net9) R=9.7E6
C35 (net23 net17) C=2.5E-10
T36 (net18 net9 net9 0) nfet L=2.41E-6 W=5.17E-6
R37 (net14 net21) R=0.5E2
R38 (net12 net9) R=8.0E4

