T1 (net7 net11 net11 0) pfet L=5.43E-6 W=5.01E-6
T2 (net2 net1 net1 0) pfet L=8.01E-6 W=7.45E-6
C3 (vdd! net17) C=0.1E-14
T4 (net8 vdd! vdd! 0) pfet L=9.76E-6 W=8.63E-6
C5 (net13 net7) C=6.0E-9
R6 (net8 net13) R=5.9E1
C7 (net21 net7) C=2.0E-13
T8 (net11 net8 net8 0) nfet L=9.47E-6 W=3.51E-6
R9 (net13 net15) R=8.6E3
T10 (net20 net15 net15 0) nfet L=7.25E-6 W=2.16E-6
T11 (net22 net12 net12 0) pfet L=2.20E-6 W=2.83E-6
C12 (net7 0) C=4.3E-9
T13 (vdd! net14 net14 0) nfet L=5.49E-6 W=0.13E-6
R14 (0 net12) R=0.9E1
T15 (net7 net7 net7 0) pfet L=2.89E-6 W=0.47E-6
C16 (net12 net1) C=0.8E-7
C17 (net6 net7) C=9.0E-12
T18 (net18 net13 net13 0) pfet L=5.57E-6 W=0.94E-6
T19 (net20 net1 net1 0) nfet L=8.75E-6 W=3.16E-6
R20 (net5 0) R=7.2E1
T21 (net5 net4 net4 0) nfet L=1.33E-6 W=4.32E-6
T22 (net6 net1 net1 0) nfet L=9.04E-6 W=3.74E-6
T23 (net14 net6 net6 0) pfet L=9.66E-6 W=7.36E-6
R24 (vdd! net21) R=3.0E0
T25 (net8 net20 net20 0) pfet L=5.20E-6 W=8.39E-6
C26 (net4 net11) C=8.5E-10
C27 (net13 net3) C=7.4E-7
T28 (0 net8 net8 0) pfet L=5.92E-6 W=5.18E-6
T29 (net3 vdd! vdd! 0) nfet L=3.45E-6 W=1.16E-6
C30 (net15 net16) C=5.8E-14
T31 (net9 net5 net5 0) nfet L=6.63E-6 W=7.45E-6
C32 (vdd! net3) C=9.6E-14
T33 (net4 net21 net21 0) pfet L=3.30E-6 W=0.43E-6
R34 (net5 vdd!) R=5.8E5
R35 (net3 net19) R=0.8E2
T36 (net19 net12 net12 0) nfet L=8.29E-6 W=0.98E-6
T37 (vdd! net2 net2 0) pfet L=0.62E-6 W=4.65E-6
T38 (net18 net4 net4 0) nfet L=6.66E-6 W=7.10E-6
T39 (net18 net21 net21 0) nfet L=8.91E-6 W=0.39E-6
R40 (net10 net20) R=1.5E5
T41 (net1 net14 net14 0) pfet L=2.16E-6 W=8.28E-6
T42 (net8 net5 net5 0) nfet L=3.84E-6 W=4.09E-6
R43 (net2 net14) R=8.5E2
C44 (net9 net12) C=9.5E-10
R45 (net18 net16) R=4.7E6
T46 (net9 net11 net11 0) nfet L=5.02E-6 W=4.91E-6
T47 (net10 net17 net17 0) nfet L=3.55E-6 W=5.88E-6
T48 (0 net4 net4 0) pfet L=8.67E-6 W=3.22E-6
C49 (net21 net6) C=4.8E-9
C50 (net11 0) C=4.5E-13
R51 (net3 net7) R=8.1E2
T52 (vdd! net4 net4 0) pfet L=6.35E-6 W=7.43E-6
R53 (net18 net10) R=2.1E5
T54 (net20 net10 net10 0) nfet L=6.88E-6 W=2.99E-6
C55 (net16 net12) C=7.5E-11
C56 (net22 net5) C=8.7E-10
T57 (net1 net2 net2 0) nfet L=4.57E-6 W=3.65E-6
C58 (net16 net7) C=3.1E-12
T59 (net16 net8 net8 0) pfet L=6.34E-6 W=5.99E-6
C60 (net17 net22) C=0.8E-12
C61 (net22 net12) C=3.5E-12
R62 (net7 net5) R=3.4E5
T63 (net5 net2 net2 0) nfet L=4.26E-6 W=8.47E-6
C64 (net10 net7) C=4.0E-9
T65 (net17 net1 net1 0) nfet L=0.55E-6 W=8.56E-6
R66 (vdd! net2) R=2.5E6
C67 (net9 net2) C=6.3E-12
T68 (net21 net11 net11 0) pfet L=8.66E-6 W=4.75E-6
T69 (net3 net6 net6 0) pfet L=6.00E-6 W=6.35E-6
R70 (net10 net14) R=5.8E1
T71 (net6 net20 net20 0) nfet L=2.41E-6 W=7.46E-6
T72 (net16 net22 net22 0) pfet L=1.06E-6 W=4.55E-6
T73 (net12 net21 net21 0) nfet L=9.51E-6 W=9.25E-6
T74 (vdd! net22 net22 0) nfet L=3.54E-6 W=0.71E-6
T75 (net16 net10 net10 0) nfet L=1.37E-6 W=9.17E-6
T76 (net6 net16 net16 0) pfet L=2.59E-6 W=4.81E-6
T77 (net15 net7 net7 0) nfet L=2.27E-6 W=5.42E-6
T78 (net1 net13 net13 0) nfet L=3.72E-6 W=2.63E-6
C79 (net3 net22) C=2.9E-10
T80 (vdd! net2 net2 0) nfet L=4.27E-6 W=9.42E-6
C81 (net5 net12) C=1.0E-6
R82 (net17 net8) R=7.3E6
C83 (net21 net15) C=6.0E-6

